US07427612B2
(5-Bromo-2-morpholin-4-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
Example CR was prepared in analogy to Example 46 from 5-Bromo-2-morpholin-4-yl-benzoyl chloride (example BI) and 1-(4-Trifluoromethyl-phenyl)-piperazine (commercial). MS (m/e): 500.1 (M+H+, 100%).

reactant | 5-Bromo-2-morpholin-4-yl-benzoyl chloride | BrC=1C=CC(=C(C(=O)Cl)C1)N1CCOCC1 | C11H11BrClNO2
reactant | 1-(4-Trifluoromethyl-phenyl)-piperazine | FC(C1=CC=C(C=C1)N1CCNCC1)(F)F | C11H13F3N2
product | (5-Bromo-2-morpholin-4-yl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | BrC=1C=CC(=C(C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)N1CCOCC1 | C22H23BrF3N3O2
